US08426420B2
x) 4-[(S)-4-Carboxy-2-({5-[2-((S)-2-cyclopropylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid butyl ester
To a solution of 300 mg 4-[(S)-4-tert-butoxycarbonyl-2-({5-[2-((S)-2-carboxy-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid butyl ester in 5 ml DMF were added 66 μl DIPEA and 160 mg HATU. After 20 minutes 29 μl cyclopropylamine were added. After stirring for 12 h saturated NaHCO3 solution was added and the mixture loaded on a Chem Elut® cartridge, the crude product being eluted with dichloromethane. The solution was concentrated to a volume of 5 ml and stirred in the presence of 476 μl TFA. After stirring for 4 h the solvents were removed under reduced pressure and the residue purified by preparative HPLC (C18 reverse phase column, elution with a water/MeCN gradient with 0.1% TFA). The fractions containing the product were lyophilized to yield the pure product.

reactant | 4-[(S)-4-tert-butoxycarbonyl-2-({5-[2-((S)-2-carboxy-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid butyl ester | 300 mg | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(=O)O)C1=CC=CC=C1)=O | C35H48N6O10
reactant | DIPEA | 66 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 160 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | cyclopropylamine | 29 μl | C1(CC1)N | C3H7N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-[(S)-4-Carboxy-2-({5-[2-((S)-2-cyclopropylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)O)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CC1)=O)C1=CC=CC=C1)=O | C34H45N7O9
